* C:\Users\young\Downloads\simplified_PRT_measurement_circuitry.asc
R2 Vplus 0 {Rprt}
R1 N001 Vplus 1kohm
XU1 Vref N002 N003 Vplus 0 Vref Vout N001 AD8221
RG N002 N003 7.15kohm
Vref Vref 0 2.5V
Vs N001 0 5.0V
.op
.step param arg 0 5.76 0.12
.param Rprt=1000*(1.1-(0.04)*sin(arg))
.lib ADI1.lib
.backanno
.end
